US07355052B2
Stage 2: ethyl 2-(3-chloro-4-nitrophenyl)-2-methylpropanoate
A solution of ethyl 2-(3-chloro-4-nitrophenyl)propanoate (14.1 g) is added dropwise to a suspension of sodium hydride (60% in oil, 2.4 g, 1.1 eq) in DMF (15 ml), cooled down to 0° C. After stirring for 1 hour at this temperature, a solution of methyl iodide (3.72 ml, 1.1 eq) in DMF (40 ml) is added dropwise to the mixture. Stirring is continued for 3 hours at ambient temperature. The reaction medium is cooled down to 0° C. then ethyl acetate, water saturated with sodium hydrogen carbonate are added dropwise, then water. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 and concentrated under reduced pressure in order to produce the expected compound in the form of an oil which crystallizes. The crystals are washed with heptane and dried (13.8 g; 94% yield).

reactant | ethyl 2-(3-chloro-4-nitrophenyl)propanoate | 14.1 g | ClC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C | C11H12ClNO4
reactant | sodium hydride | 2.4 g, 1.1 eq | [H-].[Na+]
reactant | methyl iodide | 3.72 ml, 1.1 eq | CI | CH3I
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(3-chloro-4-nitrophenyl)-2-methylpropanoate | 94% yield | ClC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)(C)C | C12H14ClNO4
